US06677345B1
4.1 Preparation of 2-Amino-4-chloro-6-di-(4-methoxybenzyl)amino-5-(1-hydroxy-phenethyl)-pyrimidine (R═Ph)
2-Amino-4-chloro-6-di(4-methoxybenzyl)amino-5-pyrimidine carbaldehyde (0.20 g; 0.48 mmol) was stirred in dry THF (5 ml) at 0 DC. Benzyl magnesium chloride (1.0 M; 3 eq; 1.45 mmol; 1.45 ml) was added dropwise. The mixture was stirred for, 30 mins before addition of saturated ammonium chloride solution (50 ml) and ethyl acetate (50 ml). The aqueous layer was further extracted with ethyl acetate and the organic layers combined, washed with water, dried and evaporated. The product was purified by column chromatography eluting with 40% EtOAc/petrol (40:60) giving a yellow oil (0.151 g; 0.30 mmol; 62.4%).

reactant | 2-Amino-4-chloro-6-di(4-methoxybenzyl)amino-5-pyrimidine carbaldehyde | 0.48 mmol, 0.20 g | NC1=NC(=C(C(=N1)Cl)C=O)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC | C21H21ClN4O3
reactant | Benzyl magnesium chloride | 1.45 mmol, 1.0 M, 1.45 ml, 3 eq | C(C1=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-Amino-4-chloro-6-di-(4-methoxybenzyl)amino-5-(1-hydroxy-phenethyl)-pyrimidine | NC1=NC(=C(C(=N1)Cl)CCC1(CC=CC=C1)O)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC | C28H31ClN4O3
